* IKW40N120H3 IGBT SPICE Model
* Infineon Technologies
* 1200V, 40A IGBT in Trench and Fieldstop technology
* with fast, soft recovery antiparallel diode
* Model version: 1.2 (Fixed TEMP parameter)
* Date: 2024
*
* This model represents the IKW40N120H3 IGBT with integrated freewheeling diode
* Suitable for ngspice and KiCad simulation

***************************************************************************
* Main Subcircuit: IKW40N120H3
***************************************************************************
.subckt IKW40N120H3 C G E

* Connection from pin C to internal collector C_int
Rc_int C C_int 1m

* Define Temperature Parameter (Default 27C)
.param TEMP=27

* Gate-emitter capacitance (Cies = 2330pF)
Cge G E 2330p

* Collector-emitter capacitance (Coes = 185pF)
Cce_int C_int E 185p

* Reverse transfer capacitance (Miller capacitance, Cres = 130pF)
Cgc G C_int 130p

* Gate resistor
Rg_int G N_gate 1

* Gate threshold detection with temperature coefficient
* Vth = 5.8V typical, -6mV/C
B_vth N_vth E V={5.8 + TEMP*(-0.006)}
R_vth N_vth E 1MEG

* Gate clamping
* FIXED: Commented out erroneous forward-biased clamps
* D_ge_clamp G E DCLAMP
* D_eg_clamp E G DCLAMP

* Transconductance control
* gfs = 20 S at 40A
B_gm N_gm E V={ (V(N_gate,E) > V(N_vth,E)) ? (20*(V(N_gate,E) - V(N_vth,E))) : 0 }
R_gm N_gm E 1MEG

* Collector current source (voltage-controlled)
* Includes VCEsat characteristic
B_ic C_int N_ce_int I={ (V(N_gate,E) < V(N_vth,E)) ? 0 : ((V(C_int, N_ce_int) > (2.05 + 0.0035*TEMP + V(N_gm,E)*0.01)) ? V(N_gm,E) : (V(C_int, N_ce_int) / (2.05 + 0.0035*TEMP + 0.01) * V(N_gm,E))) }

* On-state resistance representation
R_ce N_ce_int E {2.05/40}

* Collector-emitter leakage current (ICES)
B_ices C_int E I={ (V(N_gate,E) < 1.0) ? (250e-6 * exp((TEMP-25)/60)) : 0 }

* Parasitic NPN for latch-up
Q_latch N_ce_int N_base E QLATCH
R_base N_base E 10k
D_base_clamp N_base E DCLAMP

* Internal inductance
L_e_int N_ce_int E 13n

***************************************************************************
* Antiparallel Freewheeling Diode Model
***************************************************************************
* Main diode
D_fwd E C_fwd DFWD

* Reverse recovery charge modeling
* I(V_diode_sense) is diode current
B_qrr N_qrr E I={ (I(V_diode_sense) > 0.1) ? (I(V_diode_sense) * 1.9e-6 / 40) : 0 }
C_qrr N_qrr E 100p
R_qrr N_qrr E 355

* Diode current sense
V_diode_sense C_fwd C_int 0

* Diode capacitance
C_diode E C_int 50p

***************************************************************************
* Device Models
***************************************************************************
.model DCLAMP D (IS=1e-15 RS=0.1 BV=20 IBV=1m)

.model DFWD D (
+ IS=1e-10
+ RS={2.4/40}
+ N=2.0
+ TT=355n
+ CJO=50p
+ VJ=0.6
+ M=0.4
+ BV=1200
+ IBV=250u
+ EG=1.11
+ XTI=3.0
+ TRS1=0.001
+)

.model QLATCH NPN (
+ BF=2
+ IS=1e-15
+ VAF=50
+ IKF=10
+ CJE=100p
+ CJC=50p
+ TF=100n
+)

.ends IKW40N120H3
